US04025555
m-[N,N-Di(n-hexadecyl)aminomethyl]-N-cyclopentyl-benzamidine
Ethyl-m-[N,N-di(n-hexadecyl)aminomethyl]-thiobenzimidate dihydrochloride (1.074 g., 1.5 mmoles) was added to a solution of cyclopentylamine (255 mg., 3.0 mmoles), glacial acetic acid (0.3 ml., 5.3 mmoles) and chloroform (10 ml.). The mixture was held for 72 hours at room temperature. It was then diluted to 300 ml. with chloroform, washed with saturated aqueous sodium bicarbonate solution (3 × 50 ml.), washed with saturated aqueous sodium chloride solution (3 × 50 ml.), dried (Na2SO4) and filtered. The filtrate was acidified with a 10% solution of anhydrous hydrogen chloride in dioxane (5 ml.) and then evaporated in vacuo to an oil. The oil was crystallized from warm 1,2-dimethoxyethane [850 mg., 77% yield, Rf 0.30 (4:1, benzene:ethanol on silicic acid), m.p.-forms a gel at 78° C⟧

reactant | Ethyl-m-[N,N-di(n-hexadecyl)aminomethyl]-thiobenzimidate dihydrochloride | 1.5 mmoles, 1.074 g | Cl.Cl.C(C)SC(C1=CC(=CC=C1)CN(CCCCCCCCCCCCCCCC)CCCCCCCCCCCCCCCC)=N
reactant | cyclopentylamine | 3.0 mmoles, 255 mg | C1(CCCC1)N | C5H11N
reactant | acetic acid | 5.3 mmoles, 0.3 ml | C(C)(=O)O | C2H4O2
solvent | chloroform | 10 ml | C(Cl)(Cl)Cl | CHCl3
product | m-[N,N-Di(n-hexadecyl)aminomethyl]-N-cyclopentyl-benzamidine | 77% yield | C(CCCCCCCCCCCCCCC)N(CCCCCCCCCCCCCCCC)CC=1C=C(C(=N)NC2CCCC2)C=CC1 | C45H83N3
